* Subcircuit inv_A

.subckt inv_A in vdd out 
* c:\fossee\esim\library\subcircuitlibrary\inv_a\inv_a.cir

xm1  out in gnd gnd sky130_fd_pr__nfet_01v8 w=0.42 l=0.5	
xm2  out in vdd vdd sky130_fd_pr__pfet_01v8 w=1    l=0.5
* Control Statements

.ends inv_A